US04031221
A sample of 7.4 g of 1-phenoxycarbonyl-4-phenyl-4-(p-trifluoromethylphenoxy)piperidine is dissolved in 70 ml. of ethanol and 48 ml. of 45% aqueous KOH added, and the solution is stirred and refluxed under nitrogen for 4 hours. After cooling most of the ethanol is removed under reduced pressure and the resultant oily dispersion is extracted with ether. The ether was dried and then evaporated under reduced pressure to give a waxy, white solid of 4-phenyl-4(p-trifluoromethylphenoxy)piperidine.

reactant | 1-phenoxycarbonyl-4-phenyl-4-(p-trifluoromethylphenoxy)piperidine | 7.4 g | O(C1=CC=CC=C1)C(=O)N1CCC(CC1)(OC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C25H22F3NO3
reactant | KOH | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-phenyl-4(p-trifluoromethylphenoxy)piperidine | C1(=CC=CC=C1)C1(CCNCC1)OC1=CC=C(C=C1)C(F)(F)F | C18H18F3NO
